USH0000078
Preparation of 3,3,5,7,7-Pentanitro-5-azanonane-1,9-diol
Crude 3,3,5,7,7-pentanitro-5-azanonane-1,9-diol-1,9-diacetate (66.5 g) was stirred in 615 ml of warm (50° C.) MeOH in a 2000 ml round-bottom flask. Distilled water (265 ml) was added followed by 19 ml of concentrated hydrochloric acid. The mixture was heated at 67°-69° C. (mild reflux) overnight before nearly all the solvent was removed under reduced pressure on a rotary evaporator (water bath at 35° C.). The white solid (mp 118°-120° C.) was removed by filtration and washed with cold water. Crystallization from methanol-water gave 50.0 g, mp 121.5°-123° C. The second crop (2.9 g, mp 118°-120° C.) raised the yield to 52.9 g (97 percent). 1H NMR (acetone-d6 +1 dr. D2O): δ3.00 (t, 2H), 2.90 (t, 2H), 5.57 (s, 2H).

reactant | 3,3,5,7,7-pentanitro-5-azanonane-1,9-diol-1,9-diacetate | 66.5 g | C(C)(=O)OCCC(CN(CC(CCOC(C)=O)([N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | C12H18N6O14
reactant | MeOH | CO | CH4O
reactant | hydrochloric acid | 19 ml | Cl | ClH
solvent | water | 265 ml | O | H2O
product | 3,3,5,7,7-Pentanitro-5-azanonane-1,9-diol | [N+](=O)([O-])C(CCO)(CN(CC(CCO)([N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C8H14N6O12
